US09193720B2
To a stirred solution of (S)-ethyl 2-(tert-butoxy)-2-(4-(4,4-dimethylpiperidin-1-yl)-5-(4-hydroxyphenyl)-2,6-dimethylpyridin-3-yl)acetate (25 mg, 0.053 mmol), 2-(2,4,5-trifluorophenyl)ethanol (47.0 mg, 0.267 mmol) and Ph3P-resin (69.7 mg, 0.267 mmol) in THF (2 mL) was added DIAD (0.052 mL, 0.267 mmol) at rt. After 18 h, mixture was filtered to remove polymer, concentrated and treated with 1N NaOH (0.854 mL, 0.854 mmol) in MeOH (1 mL) at 75° C. for 16 h. Mixture was then cooled and purified by prep-HPLC to afford (S)-2-(tert-butoxy)-2-(4-(4,4-dimethylpiperidin-1-yl)-2,6-dimethyl-5-(4-(2,4,5-trifluorophenethoxy)phenyl)pyridin-3-yl)acetic acid (25.2 mg, 0.042 mmol, 79% yield). 1H NMR (500 MHz, DMSO-d6) δ 7.60-7.46 (m, 2H), 7.21 (d, J=8.4 Hz, 1H), 7.08-6.87 (m, 3H), 5.85 (br. s., 1H), 4.26 (q, J=6.2 Hz, 2H), 3.23 (br. s., 1H), 3.07 (t, J=6.2 Hz, 2H), 2.85-2.73 (m, 1H), 2.43 (s, 3H), 2.16 (br. s., 1H), 2.05 (s, 3H), 1.96-1.86 (m, 1H), 1.48 (br. s., 1H), 1.29 (br. s., 1H), 1.17 (d, J=13.6 Hz, 1H), 1.13 (s, 9H), 1.01 (d, J=12.5 Hz, 1H), 0.84 (br. s., 3H), 0.59 (br. s., 3H). LCMS (M+H)=599.2.

reactant | (S)-ethyl 2-(tert-butoxy)-2-(4-(4,4-dimethylpiperidin-1-yl)-5-(4-hydroxyphenyl)-2,6-dimethylpyridin-3-yl)acetate | 0.053 mmol, 25 mg | C(C)(C)(C)O[C@H](C(=O)OCC)C=1C(=NC(=C(C1N1CCC(CC1)(C)C)C1=CC=C(C=C1)O)C)C | C28H40N2O4
reactant | 2-(2,4,5-trifluorophenyl)ethanol | 0.267 mmol, 47.0 mg | FC1=C(C=C(C(=C1)F)F)CCO | C8H7F3O
reactant | Ph3P | 0.267 mmol, 69.7 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DIAD | 0.267 mmol, 0.052 mL | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | NaOH | 0.854 mmol, 1N, 0.854 mL | [OH-].[Na+]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | MeOH | 1 mL | CO | CH4O
product | (S)-2-(tert-butoxy)-2-(4-(4,4-dimethylpiperidin-1-yl)-2,6-dimethyl-5-(4-(2,4,5-trifluorophenethoxy)phenyl)pyridin-3-yl)acetic acid | 0.042 mmol, 25.2 mg, 79% yield | C(C)(C)(C)O[C@H](C(=O)O)C=1C(=NC(=C(C1N1CCC(CC1)(C)C)C1=CC=C(C=C1)OCCC1=C(C=C(C(=C1)F)F)F)C)C | C34H41F3N2O4
